Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
RUQ abdominal pain
 
Major Surgical or Invasive Procedure:
___ Laparoscopic cholecystectomy and cholangiogram

 
History of Present Illness:
___ with diabetes, known biliary colic for the past 3 months
who presents to the ED with RUQ pain for r/o acute 
cholecystitis.
Of note, patient initially started to complain of RUQ pain in
___. He had a total of 3 episodes of what he describes as
right RUQ pain which self resolved. He was seen at ___ in
___, and was found to have gallstones as well as elevated
LFTs. He was later discharged given resolution of symptoms and
saw Dr. ___ in clinic and was scheduled for elective
laparoscopic cholecystectomy ___. 
Patient started to complain sharp RUQ radiating to the right
shoulder at 5am ___. He denies fever/chills/nausea/vomiting.
He subsequently came to ___. 
 
Past Medical History:
Type II Diabetes
Obesity 
Kidney stones

PSH:
Left lithotripsy ___
 
Social History:
___
Family History:
nocontributory
 
Physical Exam:
VS: 98.8 116/70 19 97RA
Constitutional: NAD
Neuro: alert and oriented x 3
Cardiac: regular rate and rhythm
Resp: clear to auscultation, bilaterally
Abdomen: soft, non-distended, no rebound tenderness/guarding. 
tender near incisional sites
Wounds: abd lap sites CDI
Ext: no edema
 
Pertinent Results:
Labs
---------------
___ 06:28AM BLOOD WBC-16.4* RBC-5.14 Hgb-14.2 Hct-42.3 
MCV-82 MCH-27.6 MCHC-33.6 RDW-14.6 RDWSD-43.3 Plt ___
___ 06:28AM BLOOD Neuts-48.1 ___ Monos-5.6 Eos-4.8 
Baso-0.5 Im ___ AbsNeut-7.88* AbsLymp-6.68* AbsMono-0.92* 
AbsEos-0.79* AbsBaso-0.09*
___ 06:28AM BLOOD Glucose-137* UreaN-15 Creat-0.8 Na-138 
K-4.2 Cl-100 HCO3-23 AnGap-19
___ 06:28AM BLOOD ALT-33 AST-33 AlkPhos-73 TotBili-0.7
___ 06:28AM BLOOD Albumin-4.3
___ 06:29AM BLOOD Lactate-2.2*

Imaging
---------------
___
IMPRESSION:    
1.  Tiny gallstones with mildly prominent gallbladder.  No 
additional signs of acute cholecystitis.  Clinical and 
laboratory data correlation is recommended. 
2.  Echogenic liver consistent with steatosis. Other forms of 
liver disease and more advanced liver disease including 
steatohepatitis or significant hepatic fibrosis/cirrhosis cannot 
be excluded on this study. 

 
Brief Hospital Course:
___ with diabetes, known biliary colic for the past 3 months 
presented to the ED with RUQ pain for r/o acute cholecystitis, 
found to have elevated WBC and tiny gallstones with mildly 
prominent gallbladder on US. The patient was taken to the 
operating Room on ___ for the lap cholecystectomy and 
cholangiogram. The procedure occurred without complication. For 
more information about the procedure please refer to the 
operative report. The patient was transferred to the PACU in the 
immediate post operative period, and when appropriate, the 
patient was transferred to the floor. Pain was initially managed 
with IV pain control until the patient was tolerating PO. Diet 
was advanced in a stepwise fashion after the patient had return 
of bowel function until regular diet was tolerated without 
difficulty. The patient was discharged home on POD1. At the time 
of discharge, the patient was urinating and stooling normally, 
pain was controlled with oral pain medication, and the patient 
was out of bed to ambulate without assistance. The patient was 
discharged home with plan to follow up with Dr. ___ in clinic 
in 2 weeks.  
 
Medications on Admission:
DICYCLOMINE 10''' PRN, Buspirone 5mg', Metoformin 1000mg'', 
Albuterol, Omega 3 fish oil, Multivitamin pills.
 
Discharge Medications:
1. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ capsule(s) by mouth every four hours Disp 
#*45 Capsule Refills:*0
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute cholecystitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

 It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital 
after undergoing removal of your gallbladder. You have recovered 
from surgery and are now ready to be discharged home. Please 
follow the recommendations below to ensure a speedy and 
uneventful recovery. 

 ACTIVITY:
 - Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
 - You may climb stairs. 
 - You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.
 - Don't lift more than 10 lbs for 6 weeks. (This is about the 
weight of a briefcase or a bag of groceries.) This applies to 
lifting children, but they may sit on your lap.
 - You may start some light exercise when you feel comfortable.
 - You will need to stay out of bathtubs or swimming pools for a 
time while your incision is healing. Ask your doctor when you 
can resume tub baths or swimming.
 - Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.
 - You may resume sexual activity unless your doctor has told 
you otherwise.

 HOW YOU MAY FEEL: 
 - You may feel weak or "washed out" for 6 weeks. You might want 
to nap often. Simple tasks may exhaust you.
 - You may have a sore throat because of a tube that was in your 
throat during surgery.
 - You might have trouble concentrating or difficulty sleeping. 
You might feel somewhat depressed.
 - You could have a poor appetite for a while. Food may seem 
unappealing.
 - All of these feelings and reactions are normal and should go 
away in a short time. If they do not, tell your surgeon.

 YOUR INCISION:
 - Your incision may be slightly red around the edges. This is 
normal.
 - If you have steri strips, do not remove them for 2 weeks. 
(These are the thin paper strips that are on your incision.) But 
if they fall off before that that's okay).
 - You may gently wash away dried material around your incision.
 - It is normal to feel a firm ridge along the incision. This 
will go away.
 - Avoid direct sun exposure to the incision area.
 - Do not use any ointments on the incision unless you were told 
otherwise.
 - You may see a small amount of clear or light red fluid 
staining your dressing or clothes. If the staining is severe, 
please call your surgeon.
 - You may shower. As noted above, ask your doctor when you may 
resume tub baths or swimming.
 - Over the next ___ months, your incision will fade and become 
less prominent.

 YOUR BOWELS:
 - Constipation is a common side effect of medicine such as 
Percocet or codeine. If needed, you may take a stool softener 
(such as Colace, one capsule) or gentle laxative (such as milk 
of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
 - If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.
 - After some operations, diarrhea can occur. If you get 
diarrhea, don't take anti-diarrhea medicines. Drink plenty of 
fluitds and see if it goes away. If it does not go away, or is 
severe and you feel ill, please call your surgeon.

 PAIN MANAGEMENT:
 - It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness". 
 - Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.
 -You will receive a prescription from your surgeon for pain 
medicine to take by mouth. It is important to take this medicine 
as directied. 
 - Do not take it more frequently than prescribed. Do not take 
more medicine at one time than prescribed.
 - Your pain medicine will work better if you take it before 
your pain gets too severe.
 - Talk with your surgeon about how long you will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay.
 - If you are experiencing no pain, it is okay to skip a dose of 
pain medicine.
 - Remember to use your "cough pillow" for splinting when you 
cough or when you are doing your deep breathing exercises.
 If you experience any of the following, please contact your 
surgeon:
 - sharp pain or any severe pain that lasts several hours
 - pain that is getting worse over time
 - pain accompanied by fever of more than 101
 - a drastic change in nature or quality of your pain

 MEDICATIONS:
 - Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently.
 - If you have any questions about what medicine to take or not 
to take, please call your surgeon
 
Followup Instructions:
___